US06852731B2
2-{2-Chloro-1-[(triisopropylsilyl)oxy]ethenyl}pyrimidine. 737980
N-chlorosuccinimide (9.97 g, 74.7 mmol) was added to a solution of 2-{1-[(Triisopropylsilyl)oxy]vinyl}pyrimidine (17.3 g, 62.2 mmol) in dry THF (120 ml) under N2 then heated at 65° for 5 hr. After cooling, ether (275 ml) was added and then washed with sat sodium bicarbonate solution (2×100 ml). The organic layer was dried over sodium sulfate, filtered and evaporated to leave an amber oil. This oil was dissolved in hexane (250 ml), treated with MgSO4 and filtered. Evaporation afforded the product as a yellow oil in quantitative yield.

reactant | N-chlorosuccinimide | 74.7 mmol, 9.97 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-{1-[(Triisopropylsilyl)oxy]vinyl}pyrimidine | 62.2 mmol, 17.3 g | C(C)(C)[Si](OC(=C)C1=NC=CC=N1)(C(C)C)C(C)C | C15H26N2OSi
reactant | ether | 275 ml | CCOCC | C4H10O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 2-{2-Chloro-1-[(triisopropylsilyl)oxy]ethenyl}pyrimidine | quantitative yield | ClC=C(O[Si](C(C)C)(C(C)C)C(C)C)C1=NC=CC=N1 | C15H25ClN2OSi
